### PR TITLE
ECDSA ci

### PR DESCRIPTION
**Pull request by Frosne**
ECDSA KeyGeneration, ECDSA Signature, ECDSA Verification merge

### CODE REVIEW

**Comment by msprotz** [comment]
@s-zanella there's a bunch of history missing -- do you know if this is owing to the merge strategy used earlier?

File: Makefile.common [hunk 1]
```diff
@@ -93,6 +93,7 @@ POLY_BUNDLE=-bundle 'Hacl.Poly1305_32=Hacl.Impl.Poly1305.Field32xN_32' \
   -bundle 'Hacl.Poly1305_128=Hacl.Impl.Poly1305.Field32xN_128' \
   -bundle 'Hacl.Poly1305_256=Hacl.Impl.Poly1305.Field32xN_256'
 NACLBOX_BUNDLE=-bundle Hacl.NaCl=Hacl.Impl.SecretBox,Hacl.Impl.Box
+ECDSA_BUNDLE=-bundle Hacl.Impl.ECDSA=Hacl.Impl.ECDSA,Hacl.Impl.ECDSA.*,Hacl.Impl.P256.*,Hacl.Hash.SHA2,Hacl.Impl.P256,Hacl.Spec.P256.Ladder,Hacl.Impl.SolinasReduction,Hacl.Impl.LowLevel
```
Comment (msprotz) [inline Makefile.common]: For consistency here, I would suggest adding at the end of your bundle argument `[rename=Hacl_ECDSA]`. Alternatively, you could rename the file `Hacl.Impl.ECDSA` into `Hacl.ECDSA`.

This will require updating the `#include` in your test files.

File: dist/c89-compatible/Hacl_Curve25519_51.c [hunk 2]
```diff
@@ -653,7 +654,15 @@ inline static void cswap20(uint64_t bit, uint64_t *p1, uint64_t *p2)
   }
 }
 
-static uint8_t g25519[32U] = { (uint8_t)9U };
+static uint8_t
```
Comment (msprotz) [inline dist/c89-compatible/Hacl_Curve25519_51.c]: you are pushing a snapshot generated with an old version of kremlin; can you update kremlin to minimize the diff?

File: tests/ecdsa-common.c [hunk 3]
```diff
@@ -0,0 +1,2849 @@
...
+#include <stdlib.h>
+
+#include <unistd.h>
+
+#include "Hacl_Impl_ECDSA.h"
+
+
+void testEcdsaSignature0()
+{
+    uint8_t* m = (uint8_t *) malloc (sizeof (uint8_t) * 32);
```
Comment (msprotz) [inline tests/ecdsa-common.c]: why not `uint8_t m = { 0x56, 0xec, ... };`? same for others

File: tests/ecdsa-common.c [hunk 4]
```diff
@@ -0,0 +1,2849 @@
...
+      m[84] = 0x9c;
+      m[85] = 0xe1;
+      m[86] = 0x34;
+      m[87] = 0x09;
+      m[88] = 0x11;
+      m[89] = 0x1f;
+      m[90] = 0xf0;
+      m[91] = 0x35;
+      m[92] = 0x84;
+
```
Comment (msprotz) [inline tests/ecdsa-common.c]: you need to return a value here -- right now, all of your tests are designed to print "success" or "failure". this is good for debugging, but we need tests that will fail on CI when something goes wrong. please change every single function to return a boolean indicating success, then change main to look like this:
```
int main () {
  if (!testEcdsaSignature1())
    return EXIT_FAILURE;
  if (!testEcdsaSignature2())
    return EXIT_FAILURE;
  ...

  return EXIT_SUCCESS;
}
```

**Comment by msprotz** [comment]
The test failure is spurious on linux. I've restarted a build.

File: Makefile.common (hunk 1 above)
Comment (Frosne) [reply Makefile.common]: Done

File: code/ecdsap256sha2/Hacl.Impl.SolinasReduction.fst [hunk 5]
```diff
@@ -0,0 +1,593 @@
...
+val get_low_part: a: uint64 -> Tot (r: uint32{uint_v r == uint_v a % (pow2 32)}) 
+
+let get_low_part a = to_u32 a
+
+val lemma_xor_zero: low: uint64{uint_v (get_high_part low) ==  0} -> high: uint64{uint_v (get_low_part high) == 0} ->  Lemma (uint_v (logxor low high) = uint_v high * pow2 32 + uint_v low)
+
+let lemma_xor_zero low high = 
+  assert(uint_v low = uint_v (get_low_part low));
+  assert(uint_v high = uint_v (get_high_part high) * pow2 32);
+  admit()
```
Comment (s-zanella) [inline code/ecdsap256sha2/Hacl.Impl.SolinasReduction.fst]: Prove this.

File: code/ecdsap256sha2/Hacl.Math.fst [hunk 6]
```diff
@@ -0,0 +1,40 @@
...
+    (a * modp_inv2_prime (pow2 128) prime256  * modp_inv2_prime (pow2 128) prime256) % prime256 == (a * modp_inv2_prime(pow2 256) prime256) % prime256)
+
+
+
+val lemma_modular_multiplication_p256_2: a: nat{a < prime256} -> b: nat{b < prime256} -> 
+  Lemma 
+  (a * pow2 256 % prime256 = b * pow2 256 % prime256  <==> a == b)
+
+
+let lemma_modular_multiplication_p256_2 a b = admit()
```
Comment (s-zanella) [inline code/ecdsap256sha2/Hacl.Math.fst]: Prove this.

File: code/ecdsap256sha2/Hacl.Math.fst [hunk 7]
```diff
@@ -0,0 +1,40 @@
...
+
+(* fermat little theorem *)
+val lemma_l_ferm: a: nat -> Lemma (pow a (prime_p256_order - 1) % prime_p256_order == 1)
+
+let lemma_l_ferm a = admit()
```
Comment (s-zanella) [inline code/ecdsap256sha2/Hacl.Math.fst]: Prove this.

File: code/ecdsap256sha2/Hacl.Spec.ECDSA.fst [hunk 8]
```diff
@@ -0,0 +1,317 @@
...
+  assert_norm (List.Tot.length prime_p256_order_list == 32);
+  of_list prime_p256_order_list
+
+open Hacl.Spec.P256.Definitions
+
+val exponent_spec: a: nat_prime -> Tot (r: nat_prime {r = pow a (prime_p256_order - 2) % prime_p256_order})
+
+let exponent_spec a = 
+    let a0, _ = _exponent_spec prime_p256_order_inverse_seq (1, a) in
+    admit();
```
Comment (s-zanella) [inline code/ecdsap256sha2/Hacl.Spec.ECDSA.fst]: Prove this.

File: code/ecdsap256sha2/Hacl.Spec.P256.Lemmas.fst [hunk 9]
```diff
@@ -0,0 +1,665 @@
...
+
+let lemma_minus_distr a b = 
+  lemma_mod_sub_distr (a % prime256) b prime256;
+  lemma_mod_add_distr (- b) a prime256
+
+
+val lemma_multiplication_not_mod_prime: a: nat{a < prime256} -> b: nat {b > 0 /\ b % prime256 <> 0} -> 
+  Lemma ((a * b) % prime256 == 0 <==> a == 0)
+
+let lemma_multiplication_not_mod_prime a b = admit()
```
Comment (s-zanella) [inline code/ecdsap256sha2/Hacl.Spec.P256.Lemmas.fst]: Prove this.

File: code/ecdsap256sha2/Hacl.Spec.P256.Lemmas.fst [hunk 10]
```diff
@@ -0,0 +1,665 @@
...
+
+(*If k a ≡ k b (mod n) and k is coprime with n, then a ≡ b (mod n) *)
+
+val lemma_modular_multiplication_p256: a: nat{a < prime256} -> b: nat{b < prime256} -> 
+  Lemma 
+  (a * modp_inv2 (pow2 256) % prime256 = b * modp_inv2 (pow2 256) % prime256  ==> a == b)
+
+(*If k a ≡ k b (mod n) and k is coprime with n, then a ≡ b (mod n) *)
+
+let lemma_modular_multiplication_p256 a b = admit()
```
Comment (s-zanella) [inline code/ecdsap256sha2/Hacl.Spec.P256.Lemmas.fst]: Prove this.

File: code/ecdsap256sha2/Hacl.Math.fst [hunk 11]
```diff
@@ -0,0 +1,40 @@
...
+  assert_norm (pow2 256 - pow2 224 + pow2 192 + pow2 96 -1 > 3);
+  pow2 256 - pow2 224 + pow2 192 + pow2 96 -1
+
+noextract
+let prime_p256_order:pos =
+  assert_norm (115792089210356248762697446949407573529996955224135760342422259061068512044369> 0);
+  115792089210356248762697446949407573529996955224135760342422259061068512044369
+
+
+assume val lemma_montgomery_mod_inverse_addition: a: nat ->
```
Comment (s-zanella) [inline code/ecdsap256sha2/Hacl.Math.fst]: Prove this.

File: code/ecdsap256sha2/Hacl.Math.fst [hunk 12]
```diff
@@ -0,0 +1,40 @@
...
+let prime_p256_order:pos =
+  assert_norm (115792089210356248762697446949407573529996955224135760342422259061068512044369> 0);
+  115792089210356248762697446949407573529996955224135760342422259061068512044369
+
+
+assume val lemma_montgomery_mod_inverse_addition: a: nat -> 
+  Lemma (
+    (a * modp_inv2_prime(pow2 64) prime256  * modp_inv2_prime (pow2 64) prime256) % prime256 == (a * modp_inv2_prime(pow2 128) prime256) % prime256)
+
+assume val lemma_montgomery_mod_inverse_addition2: a: nat ->
```
Comment (s-zanella) [inline code/ecdsap256sha2/Hacl.Math.fst]: Prove this.

File: tests/ecdsa-common.c [hunk 13]
```diff
@@ -0,0 +1,821 @@
...
+    uint8_t privateKey[32] = {0x64,  0xb4,  0x72,  0xda,  0x6d,  0xa5,  0x54,  0xca,  0xac,  0x3e,  0x4e,  0x0b,  0x13,  0xc8,  0x44,  0x5b,  0x1a,  0x77,  0xf4,  0x59,  0xee,  0xa8,  0x4f,  0x1f,  0x58,  0x8b,  0x5f,  0x71,  0x3d,  0x42,  0x9b,  0x51};
+    uint8_t k[32] = {0xde,  0x68,  0x2a,  0x64,  0x87,  0x07,  0x67,  0xb9,  0x33,  0x5d,  0x4f,  0x82,  0x47,  0x62,  0x4a,  0x3b,  0x7f,  0x3c,  0xe9,  0xf9,  0x45,  0xf2,  0x80,  0xa2,  0x61,  0x6a,  0x90,  0x4b,  0xb1,  0xbb,  0xa1,  0x94};
+    uint8_t expectedR[32] = {0xac,  0xc2,  0xc8,  0x79,  0x6f,  0x5e,  0xbb,  0xca,  0x7a,  0x5a,  0x55,  0x6a,  0x1f,  0x6b,  0xfd,  0x2a,  0xed,  0x27,  0x95,  0x62,  0xd6,  0xe3,  0x43,  0x88,  0x5b,  0x79,  0x14,  0xb5,  0x61,  0x80,  0xac,  0xf3};
+    uint8_t expectedS[32] = {0x03,  0x89,  0x05,  0xcc,  0x2a,  0xda,  0xcd,  0x3c,  0x5a,  0x17,  0x6f,  0xe9,  0x18,  0xb2,  0x97,  0xef,  0x1c,  0x37,  0xf7,  0x2b,  0x26,  0x76,  0x6c,  0x78,  0xb2,  0xa6,  0x05,  0xca,  0x19,  0x78,  0xf7,  0x8b};
+
+    uint64_t flag = Hacl_Impl_ECDSA_ecdsa_p256_sha2_sign_nist(result, m, privateKey, k);
+    
+    bool flagCorrectR = true;
```
Comment (msprotz) [inline tests/ecdsa-common.c]: is this just `memcmp`?

File: tests/ecdsa-common.c [hunk 14]
```diff
@@ -0,0 +1,821 @@
...
+
+#include <unistd.h>
+
+#include "Hacl_ECDSA.h"
+
+
+bool testEcdsaSignature0()
+{
+
+    uint8_t* result = (uint8_t *) malloc (sizeof (uint8_t) * 64);
```
Comment (msprotz) [inline tests/ecdsa-common.c]: you are not freeing this memory allocation; why not `uint8_t result[64]`?

**Comment by msprotz** [comment]
I pushed changes so that your pull request wouldn't contain changes to hints (except for the new ones) and wouldn't contain changes to dist/ (except for the new files, which are not added yet).

This is down to 75 files to review, and should make reviewing much easier.

File: code/ecdsap256sha2/Hacl.Impl.LowLevel.fst [hunk 15]
```diff
@@ -0,0 +1,828 @@
...
+open FStar.Mul
+
+open FStar.Tactics
+open FStar.Tactics.Canon 
+
+open Hacl.Spec.P256.Lemmas
+
+#reset-options "--z3rlimit 400"
+
+(* This code is not side channel resistant *)
```
Comment (s-zanella) [inline code/ecdsap256sha2/Hacl.Impl.LowLevel.fst]: These comments are scary. 
Are any of the non constant-time functions used in code that needs to be constant-time?

**Comment by s-zanella** [comment]
> @s-zanella there's a bunch of history missing -- do you know if this is owing to the merge strategy used earlier?

I don't see additional history in the original branch. Maybe it got lost when Natalia cleaned up the PR?

**Comment by msprotz** [comment]
FYI, all of the recent builds are out-of-memory failures. The initial build without hints for ECDSA seems to have succeeded on Windows, which is good.

File: code/ecdsap256sha2/Hacl.Impl.SolinasReduction.fst [hunk 16]
```diff
@@ -0,0 +1,593 @@
...
+
+let get_high_part a = 
+  to_u32(shift_right a (size 32))
+
+inline_for_extraction noextract
+val get_low_part: a: uint64 -> Tot (r: uint32{uint_v r == uint_v a % (pow2 32)}) 
+
+let get_low_part a = to_u32 a
+
+val lemma_xor_zero: low: uint64{uint_v (get_high_part low) ==  0} -> high: uint64{uint_v (get_low_part high) == 0} ->  Lemma (uint_v (logxor low high) = uint_v high * pow2 32 + uint_v low)
```
Comment (s-zanella) [inline code/ecdsap256sha2/Hacl.Impl.SolinasReduction.fst]: This assumed lemma doesn't hold in general and one could prove `False` from it.

The statement should read:
```FStar
val lemma_xor_zero: 
    low:  uint64{uint_v (get_high_part low) == 0} 
  -> high: uint64{uint_v (get_low_part high) == 0} 
  -> Lemma (uint_v (logxor low high) = uint_v high + uint_v low)
```

Comment (s-zanella) [reply code/ecdsap256sha2/Hacl.Impl.SolinasReduction.fst]: Fixed

File: code/ecdsap256sha2/Hacl.Math.fst (hunk 7 above)
Comment (s-zanella) [reply code/ecdsap256sha2/Hacl.Math.fst]: This is false for `a = 0`.
Do we have a proof of Fermat's little theorem somewhere else (e.g. in the development of RSA?).

Comment (s-zanella) [reply code/ecdsap256sha2/Hacl.Math.fst]: This lemma is only needed for `a = modp_inv2_prime (pow2 256) prime_p256_order`.
I specialized it accordingly and checked that it holds using Sage.
To prove it in F* we would need to use an efficient implementation of modular exponentiation.

File: code/ecdsap256sha2/Hacl.Math.fst (hunk 11 above)
Comment (s-zanella) [reply code/ecdsap256sha2/Hacl.Math.fst]: Done.

File: code/ecdsap256sha2/Hacl.Math.fst (hunk 12 above)
Comment (s-zanella) [reply code/ecdsap256sha2/Hacl.Math.fst]: Done.

File: code/ecdsap256sha2/Hacl.Spec.P256.Lemmas.fst (hunk 9 above)
Comment (s-zanella) [reply code/ecdsap256sha2/Hacl.Spec.P256.Lemmas.fst]: Done.

File: code/ecdsap256sha2/Hacl.Spec.P256.Lemmas.fst (hunk 10 above)
Comment (s-zanella) [reply code/ecdsap256sha2/Hacl.Spec.P256.Lemmas.fst]: Done.

File: code/ecdsap256sha2/Hacl.Spec.ECDSA.fst [hunk 17]
```diff
@@ -0,0 +1,314 @@
...
+  let three = Lib.Sequence.index i 3 in 
+
+  let o = Lib.Sequence.upd i 0 three in 
+  let o = Lib.Sequence.upd o 1 two in 
+  let o = Lib.Sequence.upd o 2 one in 
+	  Lib.Sequence.upd o 3 zero
+
+
+
+val verifyQValidCurvePointSpec: publicKey: tuple3 nat nat nat -> bool
```
Comment (s-zanella) [inline code/ecdsap256sha2/Hacl.Spec.ECDSA.fst]: The verification wouldn't be complete without also checking `~(isPointAtInfinity publicKey)`. 
This function is currently used at places where this holds (following a translation of `publicKey` to Jacobian coordinates), so adding this as a pre-condition suffices.

Note that the corresponding implementation of this specification includes this pre-condition:
https://github.com/project-everest/hacl-star/blob/bb21cf455b1e6242fe0079dc56cc85397098b8b9/code/ecdsap256sha2/Hacl.Impl.P256.Signature.Common.fst#L249

File: code/ecdsap256sha2/Hacl.Impl.LowLevel.fst (hunk 15 above)
Comment (s-zanella) [reply code/ecdsap256sha2/Hacl.Impl.LowLevel.fst]: For clarity, the functions that break the `Lib.IntTypes` abstraction and are thus not side-channel resistant should be put in a separate module that is only locally opened in the places where it is used. All functions transitively using any of the functions in this module should be clearly documented as non constant-time.

Comment (s-zanella) [reply code/ecdsap256sha2/Hacl.Impl.LowLevel.fst]: For instance, the top-level function `Hacl.Impl.ECDSA.ecdsa_p256_sha2_sign` transitively uses `Hacl.Impl.LowLevel.eq_u64_nCT`:

`Hacl.Impl.LowLevel.eq_u64_nCT -> Hacl.Impl.LowLevel.sub_borrow -> Hacl.Impl.LowLevel.sub4_il -> Hacl.Impl.ECDSA.MontgomeryMultiplication.reduction_prime_2prime_with_carry -> Hacl.Impl.ECDSA.MontgomeryMultiplication.montgomery_multiplication_ecdsa_module -> Hacl.Impl.ECDSA.P256SHA256.Signature.ecdsa_signature_step6 -> Hacl.Impl.ECDSA.P256SHA256.Signature.ecdsa_signature_core -> Hacl.Impl.ECDSA.P256SHA256.Signature.ecdsa_signature ->
Hacl.Impl.ECDSA.ecdsa_p256_sha2_sign`

Is this usage ok? If so, how can we make it clear that the timing doesn't depend on the secret key?

Comment (s-zanella) [reply code/ecdsap256sha2/Hacl.Impl.LowLevel.fst]: Signing is now constant-time using intrinsics for `_addcarry_u64` and `_subborrow_u64`. Thanks @Frosne!
The remaining non-constant-time functions are documented in https://github.com/project-everest/hacl-star/blob/anilam_ci/code/ecdsap256sha2/README.md. Some are only used internally and the rest are non-constant-time on public values only (e.g. signature verification).

File: lib/Lib.IntVector.Intrinsics.fsti [hunk 18]
```diff
@@ -325,3 +325,21 @@ noextract
...
+	let r = Seq.index (as_seq h1 r) 0 in 
+	uint_v r + uint_v c * pow2 64 == uint_v x + uint_v y + uint_v cin)
+    )
+
+noextract
+val sub_borrow_u64: cin: uint64{uint_v cin <= 1} -> x: uint64 -> y: uint64 -> r: lbuffer uint64 (size 1) -> 
+  Stack uint64
+    (requires fun h -> live h r)
+    (ensures fun h0 c h1 -> modifies1 r h0 h1 /\ 
+      (let r = Seq.index (as_seq h1 r) 0 in v r - v c * pow2 64 == v x - v y - v cin))
```
Comment (s-zanella) [inline lib/Lib.IntVector.Intrinsics.fsti]: These functions don't really belong in `Lib.IntVector.Intrinsics` because they don't require any vector extensions.

File: code/ecdsap256sha2/Hacl.Spec.ECDSA.fst (hunk 17 above)
Comment (s-zanella) [reply code/ecdsap256sha2/Hacl.Spec.ECDSA.fst]: Done.

File: code/ecdsap256sha2/Hacl.Spec.ECDSA.fst [hunk 19]
```diff
@@ -155,9 +155,22 @@ val lemma_swaped_steps: p: nat_prime -> q: nat_prime ->
...
+      let a, b = t in 
+      let bit = ith_bit k (255 - i) in 
+      if uint_to_nat bit = 0 then 
+	begin 
+	  a == (beforeA * beforeB) % prime_p256_order /\ 
+	  b == (beforeB * beforeB) % prime_p256_order
+	end
+      else True
+  }
+  )
```
Comment (s-zanella) [inline code/ecdsap256sha2/Hacl.Spec.ECDSA.fst]: The code below doesn't typecheck with this spec.
I don't see the point of having a detailed spec that just repeats the pure implementation of the function which is already available to Z3.

File: tests/ecdsa-common.c (hunk 4 above)
Comment (s-zanella) [reply tests/ecdsa-common.c]: Done. But this test needs to be rewritten in F*.

File: lib/Lib.IntVector.Intrinsics.fsti (hunk 18 above)
Comment (s-zanella) [reply lib/Lib.IntVector.Intrinsics.fsti]: They were moved to a new `Lib.IntTypes.Intrinsics` module.

File: code/ecdsap256sha2/Hacl.Spec.ECDSA.fst [hunk 20]
```diff
@@ -264,10 +344,10 @@ open Hacl.Spec.P256.Definitions
 val exponent_spec: a: nat_prime -> Tot (r: nat_prime {r = pow a (prime_p256_order - 2) % prime_p256_order})
 
 let exponent_spec a = 
-    let a0, _ = _exponent_spec prime_p256_order_inverse_seq (1, a) in 
-    assume(nat_from_bytes_le prime_p256_order_inverse_seq == prime_p256_order - 2);
-    admit();
-    a0
+  let a0, _ = _exponent_spec prime_p256_order_inverse_seq (1, a) in 
+  lemma_exponen_spec prime_p256_order_inverse_seq (1, a) 256;
+  assume (nat_from_intseq_le prime_p256_order_inverse_seq = prime_p256_order - 2);
```
Comment (s-zanella) [inline code/ecdsap256sha2/Hacl.Spec.ECDSA.fst]: Is this all that remains? Doesn't look difficult to prove.
Great job!

File: code/ecdsap256sha2/Hacl.Spec.ECDSA.fst (hunk 8 above)
Comment (s-zanella) [reply code/ecdsap256sha2/Hacl.Spec.ECDSA.fst]: Done. Thanks @Frosne!

**Comment by s-zanella** [comment]
### Changes required before merging

- Move `Hacl.Spec.*` files under e.g. `specs/ecdsa`.

- Add missing `.fsti` interfaces at least for the top-level files (`Hac.Impl.ECDSA.fst` and `Hacl.Spec.{ECDSA,P256}`)

### Changes that would be nice to have but don't block a merge

- Replace the manually written C tests in `tests/ecdsa-common.c` with tests verified in F* (see e.g. https://github.com/project-everest/hacl-star/blob/master/code/tests/Hacl.Test.HMAC_DRBG.fst).

### Post-merging tasks

- Write Hacl spec-level tests
- Integrate P256 and ECDSA into EverCrypt.
- Write EverCrypt-level tests.
- Make ECDSA parametric over the curve and hash algorithms.

### General comments

- It seems to me that `calc` could be used in a lot more places to replace chains of equations that are proved using asserts or separate lemmas. This would improve proof performance because each equality needs to be proved in a smaller SMT context.

- It is striking that in the whole development you never tweaked the `fuel` and `ifuel` parameters. As @msprotz suggested, I also suggest you set `--fuel 0 --ifuel 0` (or some reasonable low values) at the beginning of each module, and selectively use `#push-options/#pop-options` to increase them where needed.

- The systematic use of `--z3refresh` considerably slows down proofs. I removed a few uses, but a couple remain.

File: code/ecdsap256sha2/Hacl.Impl.ECDSA.fst [hunk 21]
```diff
@@ -0,0 +1,153 @@
...
+
+(* This code is not side channel resistant *) 
+val ecdsa_p256_sha2_verify_u8:  mLen: size_t ->  m: lbuffer uint8 mLen {uint_v mLen < Spec.Hash.Definitions.max_input_length (Spec.Hash.Definitions.SHA2_256)} ->
+  pubKey: lbuffer uint8 (size 64) -> 
+  r: lbuffer uint8 (size 32) -> 
+  s: lbuffer uint8 (size 32) ->
+  Stack bool
+      (requires fun h -> 
+	live h pubKey /\ live h r /\ live h s /\ live h m /\
+	LowStar.Monotonic.Buffer.all_disjoint [loc pubKey; loc r; loc s; loc m]
```
Comment (s-zanella) [inline code/ecdsap256sha2/Hacl.Impl.ECDSA.fst]: This is unexpected. No buffers are modified, so why require disjointness?

Comment (s-zanella) [reply code/ecdsap256sha2/Hacl.Impl.ECDSA.fst]: Removed them.

File: code/ecdsap256sha2/Hacl.Impl.ECDSA.P256SHA256.Verification.fst [hunk 22]
```diff
@@ -409,12 +409,12 @@ val ecdsa_verification_u8: pubKey: lbuffer uint8 (size 64) -> r: lbuffer uint8 (
       )  
     (ensures fun h0 result h1 -> modifies0 h0 h1 /\ 
       (
-	let publicKeyX =  nat_from_bytes_le (as_seq h1 (gsub pubKey (size 0) (size 32))) in 
-	let publicKeyY =  nat_from_bytes_le (as_seq h1 (gsub pubKey (size 32) (size 32))) in 
-	let r = nat_from_bytes_le (as_seq h1 r) in 
-	let s = nat_from_bytes_le (as_seq h1 s) in 
+	let publicKeyX = nat_from_intseq_le (Hacl.Spec.ECDSA.changeEndian (uints_from_bytes_be (as_seq h0 (gsub pubKey (size 0) (size 32))))) in
```
Comment (s-zanella) [inline code/ecdsap256sha2/Hacl.Impl.ECDSA.P256SHA256.Verification.fst]: Isn't this just `nat_from_intseq_be (as_seq h0 (gsub pubKey (size 0) (size 32)))`?

File: code/ecdsap256sha2/Hacl.Impl.ECDSA.fsti [hunk 23]
```diff
@@ -119,19 +119,19 @@ val ecdsa_p256_sha2_verify:
     )
 
 (* This code is not side channel resistant *)
-val ecdsa_p256_sha2_verify_u8:
-    mLen: size_t
-  -> m: lbuffer uint8 mLen
-  -> pubKey: lbuffer uint8 (size 64)
-  -> r: lbuffer uint8 (size 32)
-  -> s: lbuffer uint8 (size 32) ->
+val ecdsa_verification_u8:
```
Comment (s-zanella) [inline code/ecdsap256sha2/Hacl.Impl.ECDSA.fsti]: Why the name change?
The change breaks things downstream and the rest of the function in this module still use the previous naming scheme.

File: code/ecdsap256sha2/Hacl.Impl.ECDSA.P256SHA256.Verification.fst [hunk 24]
```diff
@@ -456,13 +456,20 @@ val ecdsa_verification_u8:
...
+      let r = nat_from_intseq_be (as_seq h1 r) in
+      let s = nat_from_intseq_be (as_seq h1 s) in
       modifies0 h0 h1 /\
       result == Hacl.Spec.ECDSA.ecdsa_verification (publicKeyX, publicKeyY) r s (v mLen) (as_seq h0 m))
 
+(* absent in ByteSequence for some reason - does it hold?*) 
+
+assume val uints_from_bytes_be_nat_lemma: #t:inttype{unsigned t /\ ~(U1? t)} -> #l:secrecy_level -> #len:size_nat{len * numbytes t < pow2 32}
+  -> b:lbytes_l l (len * numbytes t) ->
+  Lemma (nat_from_intseq_be (uints_from_bytes_be #t #l #len b) == nat_from_bytes_be b)
```
Comment (s-zanella) [inline code/ecdsap256sha2/Hacl.Impl.ECDSA.P256SHA256.Verification.fst]: I believe this is readily provable from lemmas in `Lib.ByteSequence`.

Comment (Frosne) [reply code/ecdsap256sha2/Hacl.Impl.ECDSA.P256SHA256.Verification.fst]: Done

**Comment by prosecco** [comment]
Yippeee. Congratulations Natalia and many thanks to Santiago.On Feb 10, 2020 19:39, Santiago Zanella-Beguelin <notifications@github.com> wrote:@s-zanella approved this pull request.

File: specs/ecdsap256sha2/Hacl.Spec.P256.fst [hunk 25]
```diff
@@ -158,7 +169,7 @@ val isPointOnCurve: point_nat_prime -> bool
 let isPointOnCurve p =
   let (x, y, z) = p in
   (y * y) % prime =
-  (x * x * x - 3 * x + 41058363725152142129326129780047268409114441015993725554835256314039467401291) % prime
+  (x * x * x - aCoordinateP256 * x + bCoordinateP256) % prime
```
Comment (s-zanella) [inline specs/ecdsap256sha2/Hacl.Spec.P256.fst]: This should be `(x * x * x + aCoordinateP256 * x + bCoordinateP256) % prime)`
